US07279470B2
(2,4-Difluoro-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from 2,4-difluoro-N-methylaniline and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (37%, white crystals). HPLC-MS m/z=425.1 (M+1), Rt: 4.90 min.

reactant | 2,4-difluoro-N-methylaniline | FC1=C(NC)C=CC(=C1)F | C7H7F2N
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
product | (2,4-Difluoro-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1=C(C=C(C=C1)F)F)=O)(F)F | C20H13F5N2O3
